US04288624
3-Methoxyacetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A 1 g. portion of impure 1-dimethylamino-6-methoxy-2-(3-trifluoromethylphenyl)-1-hexene-3,5-dione was reacted with 10 ml. of N,N-dimethylformamide dimethyl acetal, and then with 5 ml. of 40% aqueous methylamine, as described in Preparation 1. The product was purified as described in that example, except that 1:1 ethyl acetate:dichloromethane was used as the eluent, to obtain 0.13 g. of the desired product, m.p. 104°, dec. Nmr analysis in DMSOd6 showed peaks at δ7.6-8.5 (m, 6H, aromatic); 4.8 (s, 2H, COCH2); 3.9 (s, 3H, N--CH3); 3.4 (s, 3H, OCH3).

reactant | 1-dimethylamino-6-methoxy-2-(3-trifluoromethylphenyl)-1-hexene-3,5-dione | CN(C=C(C(CC(COC)=O)=O)C1=CC(=CC=C1)C(F)(F)F)C | C16H18F3NO3
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine | CN | CH5N
product | 3-Methoxyacetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | COCC(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C16H14F3NO3
